US05468721
1.52 g of methyl salicylate, 2.33 g of 2-bromomethyl-4,6-dimethoxypyrimidine and 1.6 g of potassium carbonate were stirred in 20 ml of dimethylformamide at 60° C. for 2 hours. The reaction mixture was poured in ice water and extracted with ethyl acetate. The extract was dried over sodium sulfate and, after distilling off the solvent, purified using silica gel chromatography to obtain 2.5 g of methyl 2-(4,6-dimethoxy-2-pyrimidyl)methyloxybenzoate (yield 82%).

reactant | methyl salicylate | 1.52 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | 2-bromomethyl-4,6-dimethoxypyrimidine | 2.33 g | BrCC1=NC(=CC(=N1)OC)OC | C7H9BrN2O2
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 2-(4,6-dimethoxy-2-pyrimidyl)methyloxybenzoate | 2.5 g, yield 82% | COC1=NC(=NC(=C1)OC)COC1=C(C(=O)OC)C=CC=C1 | C15H16N2O5
